US04153699
(RS)-3-Methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide (14.0 g) is added to a solution of 3-aminopyridine (4.5 g) in pyridine (150 cc). The suspension gradually passes into solution. After 24 hours at a temperature of about 20° C., the mixture is concentrated to dryness under reduced pressure (25 mm Hg) at 50° C. The residue is dissolved in a mixture of methylene chloride (500 cc) and 2 N aqueous sodium hydroxide solution (150 cc). The organic phase is decanted, washed with water (200 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (40 mm Hg) at 40° C. The residue obtained is recrystallised from absolute ethanol (40 cc). (RS)-3-(Pyrid-3-ylimino)-9,9a-dihydrothiazolo[3,4-a]indole (8.2 g), melting at 131° C., is obtained.

reactant | (RS)-3-Methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide | 14.0 g | [I-].CSC=1SCC2[N+]1C=1C=CC=CC1C2
reactant | 3-aminopyridine | 4.5 g | NC=1C=NC=CC1 | C5H6N2
solvent | pyridine | 150 cc | N1=CC=CC=C1 | C5H5N
product | (RS)-3-(Pyrid-3-ylimino)-9,9a-dihydrothiazolo[3,4-a]indole | 8.2 g | N1=CC(=CC=C1)N=C1SCC2N1C=1C=CC=CC1C2 | C15H13N3S
